* Full theremin netlist (behavioural) - matches Fig. 2
.include models.inc
Vdd vdd 0 5
* U1B reference oscillator
XB yb ob vdd SCHMITT_INV
R2 ob yb 10k
C2 yb 0 100p
* U1A antenna oscillator; RV1 offset from zero beat (4129.6) by +23 ohm => fA ~ 1 kHz below fB
XA ya oa vdd SCHMITT_INV
R1 oa m 5.1k
RV1 m ya 4152.6
C1 ya 0 100p
Cant ya 0 8p
* U1C NAND mixer, U1D inverter
XC oa ob nd vdd NAND2
XD nd nd an vdd NAND2
* U2A Sallen-Key LPF
R3 an p 10k
R4 p q 10k
C3 p sk 2.2n
C4 q 0 1n
XU2 q sk sk vdd OPAMP
* coupling, attenuator, volume (full)
C5 sk c5 1u
R5 c5 w 100k
RV2 w 0 10k
* LM386, gain 20
XU3 w 0 lo vdd LM386
R6 lo z 10
C8 z 0 47n
C7 lo spk 220u
RL spk 0 8
.ic V(yb)=0 V(ya)=1.0 V(sk)=1.16 V(c5)=0 V(w)=0 V(lo)=2.5 V(spk)=0
.options method=gear
.tran 1u 3m 0 0.5n
.control
set filetype=ascii
save sk spk an
run
meas tran skmax MAX V(sk) from=1m to=3m
meas tran skmin MIN V(sk) from=1m to=3m
meas tran skavg AVG V(sk) from=1m to=3m
meas tran spkmax MAX V(spk) from=1m to=3m
meas tran spkmin MIN V(spk) from=1m to=3m
meas tran t1 WHEN V(sk)=0.6 RISE=3
meas tran t2 WHEN V(sk)=0.6 RISE=5
let fbeat=2/(t2-t1)
print fbeat
linearize sk spk
wrdata full_out.txt V(sk) V(spk)
.endc
.end
